US06794397B2
6-Chloro-N-(2-cyano-4-methylphenyl)-3-pyridinecarboxamide
A mixture of 2-amino-5-methyl-benzonitrile (80 mg, 0.61 mmol) and 6-chloronicotinoyl chloride (162 mg, 0.92 mmol) in anhydrous pyridine (5 ml) was refluxed for 4 hours. The mixture was diluted with 50 ml of hexane:ethyl acetate (1:1), wash with 2 N HCl (25 ml), water (25 ml), followed by saturated aqueous NaCl (25 ml), dried over anhydrous sodium sulfate, and evaporated. The crude product was purified by column chromatography using hexane:ethyl acetate (2:1) to give 30 mg (18% yield) of the title compound as pale pink solid. 1H NMR (DMSO-d6): 10.82 (s, 1H), 8.99 (d, J=2.4 Hz, 1H), 8.38 (dd, J=2.4, 8.1 Hz, 1H), 7.78-7.73 (m, 2H), 7.61-7.48 (m, 2H), 2.38 (s, 3H).

reactant | 2-amino-5-methyl-benzonitrile | 0.61 mmol, 80 mg | NC1=C(C#N)C=C(C=C1)C | C8H8N2
reactant | 6-chloronicotinoyl chloride | 0.92 mmol, 162 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | hexane ethyl acetate | 50 ml | CCCCCC.C(C)(=O)OCC
product | 6-Chloro-N-(2-cyano-4-methylphenyl)-3-pyridinecarboxamide | 30 mg, 18% yield | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)C)C#N | C14H10ClN3O
